US08044052B2
Phenyl 1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate
To a solution of 1H-pyrrolo[2,3-b]pyridin-5-ylamine (0.50 g, 3.7 mmol, see Synthesis, 2005, No. 15, 2503-2506) in THF (4 mL) and CH3CN (6 mL) was added pyridine (0.36 mL, 4.4 mmol) followed by phenyl chloroformate (0.49 mL, 3.8 mmol) slowly. The reaction was stirred overnight. The mixture was partitioned between water and EtOAc. The aqueous layer was extracted again with EtOAc. The combined organic layer was dried over sodium sulfate, filtered and concentrated. Purification by chromatography (0-100% EtOAc/hexane) provided the desired product as a white solid (0.213 g, 23%). MS M+1: 254.15.

reactant | 1H-pyrrolo[2,3-b]pyridin-5-ylamine | N1C=CC=2C1=NC=C(C2)N | C7H7N3
reactant | CH3CN | 6 mL | CC#N | C2H3N
reactant | pyridine | 4.4 mmol, 0.36 mL | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 3.8 mmol, 0.49 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Phenyl 1H-pyrrolo[2,3-b]pyridin-5-ylcarbamate | 0.213 g, 23% | N1C=CC=2C1=NC=C(C2)NC(OC2=CC=CC=C2)=O | C14H11N3O2
